US06774130B2
A solution of bromine (33.17 ml) in acetic acid (300 ml) was added slowly to a solution of 6-amino-1-benzyluracil and anhydrous sodium acetate (93.29 g) in acetic acid (300 ml) and stirred for 6 hours. The reaction mixture was cooled in ice-cold water. The precipitate was filtered and dried under vacuum to provide 6-amino-1-benzyl-5-bromouracil (134.0 g).

reactant | bromine | 33.17 ml | BrBr | Br2
reactant | 6-amino-1-benzyluracil | NC1=CC(NC(N1CC1=CC=CC=C1)=O)=O | C11H11N3O2
reactant | sodium acetate | 93.29 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 6-amino-1-benzyl-5-bromouracil | 134.0 g | NC1=C(C(NC(N1CC1=CC=CC=C1)=O)=O)Br | C11H10BrN3O2
